US07265144B2
Step 1: Preparation of 4-bromo-3-tert-butyl-1-methyl-1H-pyrazol-5-amine
To a solution of 3-tert-butyl-1-methyl-1H-pyrazol-5-amine (10 g, 65.3 mmol) in acetic acid (90 mL) was added bromine (10.4 g, 65.26 mmol) in acetic acid (10 mL). The solution was stirred at rt for 30 min, and then water (100 mL) was added. The reaction mixture was basified to pH 9 using KOH (1.0 M ice cold solution). The resulting brown solid was filtered, collected, and purified by silica gel flash chromatography using 10 to 30% ethyl acetate in hexanes to afford 13.2 g (87%) of the title compound (white solid).

reactant | 3-tert-butyl-1-methyl-1H-pyrazol-5-amine | 65.3 mmol, 10 g | C(C)(C)(C)C1=NN(C(=C1)N)C | C8H15N3
reactant | bromine | 65.26 mmol, 10.4 g | BrBr | Br2
reactant | water | 100 mL | O | H2O
reactant | KOH | 1.0 M | [OH-].[K+]
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 4-bromo-3-tert-butyl-1-methyl-1H-pyrazol-5-amine | 13.2 g, 87% | BrC=1C(=NN(C1N)C)C(C)(C)C | C8H14BrN3
